US06548511B1
With stirring under ice-cooling, sodium hydride (60% in oil, 3.73 g, 56.0 mmol) and ethyl isothiocyanate (4.38 ml, 56.0 mmol) were added in that order to DMF (35 ml) solution of ethyl 3-amino-4,4,4-trifluorocrotonate, Followed by stirring overnight while gradually returning to room temperature. After completion of the reaction, the reaction solution was concentrated under a reduced pressure, water (20 ml) was added to the thus obtained residue, and then concentrated hydrochloric acid (15 ml) was added. The thus precipitated solid was isolated by filtration, washed with water (100 ml) and then thoroughly dried to obtain 3-ethyl-2-mercapto-6-trifluoromethyl-4-(3H)-pyrimidinone (11.0 g, 99%).

reactant | sodium hydride | 56.0 mmol, 3.73 g | [H-].[Na+]
reactant | ethyl isothiocyanate | 56.0 mmol, 4.38 ml | C(C)N=C=S | C3H5NS
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | 3-ethyl-2-mercapto-6-trifluoromethyl-4-(3H)-pyrimidinone | 11.0 g, 99% | C(C)N1C(=NC(=CC1=O)C(F)(F)F)S | C7H7F3N2OS
